US07034018B2
2-{2-[(2-Chloro-6-fluoro-phenyl)-pyrrolidin-1-yl-methyl]-pyrrol-1-ylmethyl}-pyridine
The preparation was carried out in accordance with general synthesis instructions 4 from 4-pyrrol-1-yl-methyl-pyridine and 1-(2-chloro-6-fluoro-benzylidene)-pyrrolidinium chloride, which had been prepared in accordance with example 4 from 2-chloro-6-fluorobenzaldehyde and pyrrolidine.

reactant | 4-pyrrol-1-yl-methyl-pyridine | N1(C=CC=C1)C1=CC(=NC=C1)C | C10H10N2
reactant | 1-(2-chloro-6-fluoro-benzylidene)-pyrrolidinium chloride | [Cl-].ClC1=C(C=[N+]2CCCC2)C(=CC=C1)F
reactant | 2-chloro-6-fluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-{2-[(2-Chloro-6-fluoro-phenyl)-pyrrolidin-1-yl-methyl]-pyrrol-1-ylmethyl}-pyridine | ClC1=C(C(=CC=C1)F)C(C=1N(C=CC1)CC1=NC=CC=C1)N1CCCC1 | C21H21ClFN3
